US07417041B2
Step A: Preparation of 6,N2-dimethyl-pyridine-2,3-diamine
2-Chloro-6-methyl-3-nitropyridine (2.5 g, 14.5 mmol) was stirred in 1.0 M solution of methylamine (40 ml, 40 mmol) in methanol at 70° C. for 60 min. After cooling to ambient temperature, and methanol (60 ml) and 10% palladium on activated carbon were added and the resulting mixture was shaken under 40 psi of hydrogen gas at ambient temperature for 30 min. The mixture was filtered through a pad of Celite and concentrated in vacuum. Chromatography on silica gel, eluting with a mixture dichloromethane-methanol-38% aqueous ammonia (9:1:0.1) yielded the title compound (1.65 g, 83%).

reactant | 2-Chloro-6-methyl-3-nitropyridine | 14.5 mmol, 2.5 g | ClC1=NC(=CC=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | methylamine | 40 mmol, 40 ml | CN | CH5N
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on activated carbon | [Pd] | Pd
solvent | methanol | 60 ml | CO | CH4O
product | 6,N2-dimethyl-pyridine-2,3-diamine | 1.65 g, 83% | CC1=CC=C(C(=N1)NC)N | C7H11N3
